US08809342B2
To a −10° C. solution of methyl 6-formylnicotinate (800 mg, 4.8 mmol) in tetrahydrofuran was added isobutylmagnesium bromide (3.6 mL, 7.2 mmol, 2.0M in THF). The resulting mixture was stirred at −10° C. After 2 hours, additional isobutylmagnesium bromide (2.4 mL, 4.8 mmol) was added and the reaction was stirred at −10° C. for another 2 hours. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated to a brown oil. Purification by column chromatography (0-15% ethyl acetate in petroleum ether) gave methyl 6-(1-hydroxy-3-methylbutyl)nicotinate. 1H NMR (400 MHz, CDCl3, δ): 9.14 (s, 1H), 8.29-8.27 (d, 1H), 7.36-7.34 (d, 1H), 4.85-4.83 (m, 1H), 3.78 (s, 3H), 1.95-1.91 (m, 1H), 1.65-1.51 (m, 2H), 1.03-1.01 (d, 3H), 0.96-0.95 (d, 3H).

reactant | methyl 6-formylnicotinate | 4.8 mmol, 800 mg | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | isobutylmagnesium bromide | 7.2 mmol, 2.0M, 3.6 mL | C(C(C)C)[Mg]Br
reactant | isobutylmagnesium bromide | 4.8 mmol, 2.4 mL | C(C(C)C)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 6-(1-hydroxy-3-methylbutyl)nicotinate | OC(CC(C)C)C1=NC=C(C(=O)OC)C=C1 | C12H17NO3
